Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___: ERCP

 
History of Present Illness:
___ s/p laparoscopic cholecystectomy w/ Dr. ___ 2wks ago
p/w diffuse abdominal pain radiating to the shoulder and back.
The pain came on around 2PM, 2 hours after dinner, and resolved
after around 45 minutes. She had nausea, but no vomiting. Her
last bowel movement was a couple of hours prior to the pain
onset. She did not take anything for the pain.

She first experienced similar pain around 6 weeks ago, which she
attributed to food poisoning.  Upon recurrence of the pain
however, she went to an outside ED, where workup on US showed
cholelithiasis. In both instances the pain was the same as 
today,
with diffuse localization and radiation to chest/back. She had
associated nausea. She underwent an elective laparoscopic
cholecystectomy with Dr. ___ in ___, which went without
complications, but showed some adhesions and evidence of chronic
cholecystitis. Her post operative course was uneventful until
today. She affirms that the pain is similar to before surgery,
and she has no other associated symptoms.
 
Past Medical History:
HTN, Hypothyroidism, Diverticulitis, Breast
Cancer

 
Social History:
___
Family History:
No history of cancer, heart disease, stroke
 
Physical Exam:
At Admission: 
Vitals: 97.6 68 118/60 16 96 RA
GEN: A&Ox3, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, mild tenderness to palpation on RLQ, no
rebound or guarding, normoactive bowel sounds, no palpable
masses, well healed scars from previous surgeries.
Ext: No ___ edema, ___ warm and well perfused

At discharge: 
AVSS
GEN: A&Ox3, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Clear to auscultation b/l
ABD: Soft, nondistended, non tender 
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 03:45PM BLOOD ALT-132* AST-218* AlkPhos-225* 
TotBili-0.4
___ 05:38AM BLOOD ALT-230* AST-201* AlkPhos-235* 
TotBili-0.5
___ 09:50AM BLOOD ALT-155* AST-72* AlkPhos-216* TotBili-0.6
___ 10:30AM BLOOD WBC-7.8 RBC-4.13 Hgb-11.9 Hct-37.5 MCV-91 
MCH-28.8 MCHC-31.7* RDW-13.2 RDWSD-43.5 Plt ___

CT A/P:  
  
1. Status post cholecystectomy.  Mild intra and extrahepatic 
biliary ductal dilatation may relate to post cholecystectomy 
state.  Otherwise, no acute intra-abdominal CT findings 
2. 5 mm hypodensity in the pancreatic body may represent 
insinuating fat or small side branch IPMN.  Recommend further 
assessment with outpatient MRCP. 
3. Uterus and ovaries not seen, most likely surgically removed. 

 
Brief Hospital Course:
Ms. ___ was admitted s/p lap chole with increasing abdominal 
pain and elevated transaminases concerning for a retained stone 
in the biliary tree. She was made NPO, given IVF and taken for 
ERCP on ___. In ERCP, she was noted to have a small retained 
stone which was extracted and a sphincterotomy was done as well. 
She tolerated the procedure well without any complications. The 
following day. she was advanced to clear liquids and then a 
regular diet which she tolerated well. She was stable for 
discharge with the appropriate follow-up. 

Of note, there was a 5mm pancreatic lesion seen on CT scan which 
may require an outpatient MRI for further evaluation. The ERCP 
also showed an incidental periampullary divertuiculum. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 10 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1. FLUoxetine 10 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
retained stone

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for abdominal pain. You 
underwent an ERCP which showed a retained stone. This stone was 
removed and your abdominal pain resolved. You were advanced to a 
regular diet the following day and you were ready for discharge. 


Please call or return to the clinic if you experience any of the 
following: 
-fevers
-chills
-increasing abdominal pain 
-nausea
-vomiting

Thank you, 
Your Surgery Team 
 
Followup Instructions:
___